US07807671B2
Preparation of ethyl 3-(4-methoxy-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylate (Compound B-7)
To a suspension of 1-(7-chloro-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (2.50 g, 5.35 mmol) in 1,4-dioxane (60 mL) in a sealable flask was added ethyl 3-(tributylstannyl)-1H-pyrazole-5-carboxylate (2.30 g, 5.36 mmol) followed by tetrakis(triphenylphosphine)palladium(0) (1.86 g, 1.61 mmol). The mixture was flushed with N2, the flask was sealed, and the mixture was heated to 120° C. for 16 hr. The mixture was cooled to rt and diluted with MeOH (50 mL). The remaining solids were removed by filtering the mixture through a pad of celite and were washed with MeOH (25 mL). The remaining solvent was concentrated under reduced pressure. The resulting residue was dissolved in MeOH, and loaded onto a silica gel. After the silica was dry, a column was run using the biotage system with a 0 to 10% MeOH in CH2Cl2 gradient. After concentrating the desired fractions, 1.05 g of ethyl 3-(4-methoxy-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylate was recovered as an orange solid. LCMS: m/e 571.2 (M+H)+, ret time 2.01 min (method 2). 1H NMR (500 MHz, DMSO-D6) δ ppm 12.39-12.72 (m, 1 H) 8.37 (s, 1 H) 8.11 (s, 1 H) 7.52-7.76 (m, 6 H) 4.68-4.85 (m, 1 H) 4.38 (q, J=7.02 Hz, 2 H) 3.98-4.06 (m, 3 H) 3.67-3.73 (m, 2 H) 3.43-3.49 (m, 2 H) 3.28-3.36 (m, 2 H) 3.14-3.22 (m, 2 H) 1.36 (t, J=7.17 Hz, 3 H).

reactant | 1-(7-chloro-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 5.35 mmol, 2.50 g | ClC=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)OC | C21H19ClN8O3
reactant | ethyl 3-(tributylstannyl)-1H-pyrazole-5-carboxylate | 5.36 mmol, 2.30 g | C(CCC)[Sn](C1=NNC(=C1)C(=O)OCC)(CCCC)CCCC
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.61 mmol, 1.86 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3-(4-methoxy-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylate | COC1=C2C(=C(N=C1)C1=NNC(=C1)C(=O)OCC)NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)=O | C27H26N10O5
